US05556524
2,2'-bithiophene, T2
The Grignard reagent 2-thienylmagnesiumbromide (T-MgBr) was made from 2-bromothiophene (T-Br) in a standard fashion in a three-necked roundbottom flask with 9 gr (370 mmol) of magnesium and 45 gr (276 mmol) of T-Br in 120 ml diethylether. Initially, a small amount of ether and a few milliliters of T-Br were added to the magnesium and the reaction was initiated by crushing some of the magnesium with a glass rod. The reaction was maintained by adding the rest of the T-Br and the ether in small portions from a dropping funnel. The Grignard reagent was refluxed for an additional half hour. In a separate, three-necked roundbottom flask was placed 120 ml of ether, 37.5 gr (230 mmol) of T-Br and 180 mg (0.33 mmol) of Ni(dppp)Cl2. The Grignard reagent was then added slowly, under a steady outflow of argon. The mixture was refluxed and stirred for 3 hours and 15 minutes and poured on ice with dilute hydrochloric acid. The product was then extracted with ether. After drying the ether layer on anhydrous magnesium sulphate, the organic layer was filtrated and the ether evaporated. The residue was redissolved in warm methanol. Some water was added to the methanol, while still warm, until a yellow precipitate started to form. The mixture was then put overnight at 4° C. to form yellow crystals. After filtration and drying in vacuo the product was molten and poured in a dry storage vessel. Yield: yellow crystals of T2, 25.16 gr (152 mmol, 66%). M.p.: 31° C. (litt.: 33). Elemental analysis: found% (theory%) C 57.54 (57.79), H 3.61 (3.64), S 38.0 (38.6). 1H-NMR (300 MHz, CDCl3,): ∂=7.21 (2H, dd, H=5.0 and 1.2 Hz), ∂=7.01 (2H, dd, J=5.0 and 3.6 Hz), ∂=7.18 (2H, dd, J=1.2 and 3.6 Hz). M/z (Mass peak from mass spectrometry): 166 D (M.W.=166), small impurity at 248 D, probably 2,2':5',2"-terthiophene (M.W.=248).

reactant | 2-bromothiophene | BrC=1SC=CC1 | C4H3BrS
reactant | magnesium | 370 mmol, 9 gr | [Mg] | Mg
reactant | 2-bromothiophene | 276 mmol, 45 gr | BrC=1SC=CC1 | C4H3BrS
reactant | 2-bromothiophene | a few milliliters | BrC=1SC=CC1 | C4H3BrS
reactant | 2-bromothiophene | 230 mmol, 37.5 gr | BrC=1SC=CC1 | C4H3BrS
reactant | hydrochloric acid | Cl | ClH
solvent | diethylether | 120 ml | C(C)OCC | C4H10O
catalyst | Ni(dppp)Cl2 | 0.33 mmol, 180 mg | Cl[Ni]1([P](CCC[P](C2=CC=CC=C2)1C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)Cl
solvent | ether | 120 ml | CCOCC | C4H10O
product | 2,2'-bithiophene | S1C(=CC=C1)C=1SC=CC1 | C8H6S2
